US07888352B2
(S)-3-methyl-4-(6-((4-methylpiperazin-1-yl)methyl)-2-(pyrimidin-5-yl)thieno[3,2-d]pyrimidin-4-yl)morpholine 422
Following General Procedure D, (S)-2-chloro-4-(3-methylmorpholino)thieno[3,2-d]pyrimidine-6-carbaldehyde (100 mg, 0.34 mmol), HOAc (25 mg), NaBH(OAc)3 (80 mg, 0.37 mmol), N-methylpiperazine (41 mg, 0.40 mmol), 1,2-dichloroethane (1.0 mL), trimethylorthoformate were reacted at room temperature. The crude product was used in the next step without purification. MS (Q1) 382 (M)+. Following General Procedure A, crude product from above, pyrimidine-5-boronic acid (27 mg), Pd(PPh3)4 (20 mg), MeCN (1 mL) and 1M KOAc in H2O (1 mL) were irradiated at 150° C. for 30 min. The reaction mixture was diluted with CH2Cl2, and filtered. The filtrate was concentrated to give crude 422 which was purified by reverse phase HPLC. (14 mg) MS (Q1) 426 (M)+

reactant | (S)-2-chloro-4-(3-methylmorpholino)thieno[3,2-d]pyrimidine-6-carbaldehyde | 0.34 mmol, 100 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2[C@H](COCC2)C | C12H12ClN3O2S
reactant | NaBH(OAc)3 | 0.37 mmol, 80 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | N-methylpiperazine | 0.40 mmol, 41 mg | CN1CCNCC1 | C5H12N2
reactant | trimethylorthoformate | COC(OC)OC | C4H10O3
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
solvent | HOAc | 25 mg | CC(=O)O | C2H4O2
product | (S)-3-methyl-4-(6-((4-methylpiperazin-1-yl)methyl)-2-(pyrimidin-5-yl)thieno[3,2-d]pyrimidin-4-yl)morpholine | C[C@@H]1N(CCOC1)C=1C2=C(N=C(N1)C=1C=NC=NC1)C=C(S2)CN2CCN(CC2)C | C21H27N7OS
